US05212187
N-[8-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]octyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea
Preparation is effected analogously to Example 63, using 0.6 g (1.6 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,8-octanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.4 g (1.7 mmol) of 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography (eluant: chloroform/methanol 9+1) analogously to Example 63 yields the purified title compound in the form of a dry foam; MS (+FAB method, DMSO/MNBA): m/z (rel. int.[%])=645 ([M+H]+,<1), 234 (100); IR (KBr): 1638 cm-1 (C=O). For analytical purposes a sample is converted into the O,O'-ditoluoyltartaric acid salt and recrystallised from ether/isopropanol; m.p.: 135°-140° C.

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,8-octanediamine | 1.6 mmol, 0.6 g | ClC1=CC=C(C=C1)C(CCN(CCCCCCCCN)C)C1=NC=CC=C1 | C23H34ClN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | 1.7 mmol, 0.4 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[8-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]octyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea | ClC1=CC=C(C=C1)C(CCN(C)CCCCCCCCNC(=O)NCCSCC=1N=C(SC1)NC(=N)N)C1=NC=CC=C1 | C31H45ClN8OS2
